US07825256B2
2-(Methylamino)ethanol (22.0 g, 290 mmol) is added all at once to a stirred solution of 3,4-methylenedioxybenzyl chloride (25.0 g, 147 mmol) in DCM (45 mL) at −78° C. under nitrogen. The solution is stirred for 15 minutes at −78° C. then allowed to warm to room temperature overnight (16 h). The reaction is quenched with 1.2 M NaOH (100 mL), washed twice with water, dried of MgSO4, and filtered. Concentration under reduced pressure afforded 25.3 g (83%) of 2-(benzo[1,3]dioxol-5-ylmethyl-methyl-amino)-ethanol as a clear oil which was suitable for use in the next step.

reactant | 2-(Methylamino)ethanol | 290 mmol, 22.0 g | CNCCO | C3H9NO
reactant | 3,4-methylenedioxybenzyl chloride | 147 mmol, 25.0 g | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | 2-(benzo[1,3]dioxol-5-ylmethyl-methyl-amino)-ethanol | 25.3 g, 83% | O1COC2=C1C=CC(=C2)CN(CCO)C | C11H15NO3
